US05814631
As the starting substances, ethyl 4-chloro-2-phenoxycarbonylaminobenzoate and 2-cyanobenzenesulfonamide were used and the same method was applied as in Example 36 to obtain N-(2-cyanobenzenesulfonyl)-N'-(2-ethyloxycarbonyl-5-chlorophenyl)urea and further to obtain from 1.52 g (3.73 mmol) of N-(2-cyanobenzenesulfonyl)-N'-(2-carboxyl-5-chlorophenyl)urea 810 mg of the above-identified compound (yield 60.1%). Properties: colorless crystal, Melting point: 160°-161° C., PMR (δppm, DMSO-d6):3.71 (3H,s), 6.61 (1H,s), 6.90 (1H,s), 7.12 (1H,s), 7.23 (1H,d), 7.72 (1H,s), 7.86 (1H,d), 11.59 (1H,br).

reactant | ethyl 4-chloro-2-phenoxycarbonylaminobenzoate | ClC1=CC(=C(C(=O)OCC)C=C1)NC(=O)OC1=CC=CC=C1 | C16H14ClNO4
reactant | 2-cyanobenzenesulfonamide | C(#N)C1=C(C=CC=C1)S(=O)(=O)N | C7H6N2O2S
product | N-(2-cyanobenzenesulfonyl)-N'-(2-ethyloxycarbonyl-5-chlorophenyl)urea | C(#N)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=C(C=CC(=C1)Cl)C(=O)OCC | C17H14ClN3O5S
